Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is an ___ year old woman w/PMH HFpEF, mixed severity 
AS, afib on apixaban, HTN, HLD, CKD III presenting with 
shortness of breath.

Patient had a recent admission from ___ where she 
presented with DOE and chest/shoulder discomfort. She was found 
to be in a heart failure exacerbation with new afib. She was 
diuresed with IV Lasix with improvement in hre dyspnea. For her 
afib, she was started on apixaban and amiodarone and underwent 
DCCV with restoration of sinus rhythm. For her anginal symptoms, 
she underwent pMIBI which did not show perfusion defects 
(coronary angiography was deferred due to ___. She was found to 
have progression in severity of her aortic stenosis during this 
hospitalization and was evaluated by the TAVR team. TAVR was 
deferred pending coronary angiography to assess for severe CAD. 
Notably, the patient's home BP meds were held during this 
admission due to orthostatic hypotension requiring midodrine 
thought to be secondary to diuresis. She was not discharged on 
anti-hypertensives or diuretics.

Since discharge, she has continued to have shortness of breath 
with exertion with occasional associated chest/shoulder 
discomfort. This evening when she was walking to the bathroom, 
she developed acute onset worsening shortness of breath which 
she describes as feeling wheezy. She initially sat and waited 
for her breathing to improve, however, when it did not improve, 
she called EMS. EMS arrived and gave the patient 4x SL 
nitroglycerin, nitroglycerin paste, 20mg Diltiazem, 40mg IV 
Lasix and placed her on CPAP for SpO2 82% on room air. 

In the ED,  
- Initial vitals were: HR 102 BP 132/100 RR 26 SpO2 94% bipap  
- Exam notable for:  Speaking in ___ word sentences, moderate 
respiratory distress, tachycardic, irregularly irregular, coarse 
breath sounds bilaterally with wheezing in LLL, skin warm and 
dry, no peripheral edema
- Labs notable for: WBC 11.1 ___ 15158 Cr 1.9 trop 0.08
- Studies notable for: CXR showing interval worsening of now 
mild to moderate pulmonary vascular congestion and edema. 

On arrival to the CCU, she states that her breathing is 
significantly improved. She is not currently having chest pain 
or shortness of breath. Denies fevers, chills, nausea, vomiting, 
diarrhea, or dysuria. Per patient's granddaughter, her BPs at 
home had improved since discharge to the 140s systolic.   

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension
- Hyperlipidemia
- CKD Stage III
- Obesity 
- History of tobacco use 
2. CARDIAC HISTORY  
- Mild aortic stenosis   
3. OTHER PAST MEDICAL HISTORY  
- Polymyalgia rheumatic
- Osteoarthritis
- Iron deficiency anemia
- Spinal stenosis
- Sleep disorder
- History of squamous cell carcinoma
 
Social History:
___
Family History:
Mother - HTN, CVA at age ___, died at age ___
Father - COPD, 3:1 heart block
Brother - MI x2, first in early ___, died at age ___
Brother - Died suddenly overnight at age ___
 
Physical Exam:
ADMISSION EXAM
=================
VS:  HR 90 BP 110/67 RR 17 SpO2 94% 3L NC
GENERAL: Lying in bed, speaking in full sentences, NAD.
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. JVP 12cm H2O.  
CARDIAC: Normal rate, regular rhythm. ___ systolic murmur heard
best at base.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. Bibasilar rales to mid
lung fields. 
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE EXAM
==================
___ 0716 Temp: 98.4 PO BP: 100/63 HR: 111 RR: 20 O2 sat: 
91%
O2 delivery: RA 
___ Total Intake: 180ml PO Amt: 180ml 
___ Total Output: 350ml Urine Amt: 350ml 
GENERAL: Well-appearing elderly woman, sitting in bed 
comfortably, hard of hearing, wearing hearing-aid, in NAD
HEENT: NC/AT, EOMI, anicertic sclera, MMM  
NECK: JVP 11-12cm
CARDIAC: Irregularly irregular, normal S1/S2, harsh III/VI 
systolic ejection murmur loudest at upper sternal borders 
LUNGS: CTAB, no accessory muscle use 
ABDOMEN: Soft, non-tender, non-distended, active bowel sounds
EXTREMITIES: no edema
NEURO: Alert, oriented, moving all extremities with purpose, no 
facial asymmetry  
 
Pertinent Results:
ADMISSION LABS
=================
___ 12:30AM BLOOD WBC-11.1* RBC-3.56* Hgb-10.4* Hct-33.4* 
MCV-94 MCH-29.2 MCHC-31.1* RDW-14.6 RDWSD-50.3* Plt ___
___ 12:30AM BLOOD ___ PTT-30.2 ___
___ 12:30AM BLOOD Glucose-155* UreaN-60* Creat-1.9* Na-140 
K-4.9 Cl-102 HCO3-19* AnGap-19*
___ 12:30AM BLOOD ALT-10 AST-29 CK(CPK)-221* AlkPhos-82 
TotBili-0.8
___ 12:30AM BLOOD CK-MB-8 ___
___ 12:30AM BLOOD cTropnT-0.08*
___ 04:36AM BLOOD cTropnT-0.16*

RELEVANT STUDIES
=================
___ CXR PORTABLE AP:
Interval worsening of now mild to moderate pulmonary vascular 
congestion and edema. 

MICROBIOLOGY
=================
Urine with e.coli (asymptomatic bacteriuria)

ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

DISCHARGE LABS
=================
___ 07:10AM BLOOD WBC-8.9 RBC-3.65* Hgb-10.7* Hct-33.8* 
MCV-93 MCH-29.3 MCHC-31.7* RDW-14.6 RDWSD-49.4* Plt ___
___ 07:10AM BLOOD ___ PTT-31.6 ___
___ 06:25AM BLOOD Glucose-96 UreaN-63* Creat-2.2* Na-142 
K-4.4 Cl-103 HCO3-23 AnGap-16
___ 06:25AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
SUMMARY:
___ w/ new HFpEF and atrial fibrillation on apixaban (new as of 
___, low flow/low gradient severe AS, HTN, HLD, and CKD III 
who presented with shortness of breath, found to have acute 
hypoxic respiratory failure secondary to pulmonary congestion 
from a HFpEF exacerbation, with course c/b afib with RVR.

She required one night in the CCU for diuresis and BIPAP. 

Notably, patient was discharged on ___, one day prior to this 
re-admission, for similar (albeit less severe) symptoms. Due to 
orthostasis, she was not discharged on a diuretic. Furthermore, 
she was started on amiodarone s/p successful DCCV for new atrial 
fibrillation during that admission, though was not discharged on 
beta blockade due to sinus bradycardia. 

TRANSITIONAL ISSUES:
Code status: DNR/DNI (reverse for procedures)
Contact: ___ (Daughter), ___
Dispo: home with ___, ___
Discharge weight: 84.7 kg
Discharge creatinine: 2.2

- Severe aortic stenosis:
[] Follow up with structural heart team is not yet scheduled
[] Remaining to ___ for pre-TAVR evaluation:
1. Needs a left heart catheterization for coronart evaluation
2. Needs dental clearance/panorex 

- Acute heart failure exacerbation (HFpEF, EF 57%):
[] Weigh daily; dry weight ~ 84 kg
[] Initiated Torsemide 5 mg PO daily. Adjust based on follow up 
weight and serum creatinine
[] Add low dose ACE-I when able to tolerate from a BP standpoint

- Atrial fibrillation with rapid ventricular response:
[] Started metoprolol succinate 12.5 mg BID. Adjust as tolerated 
(note that we split 25 mg to minimize hypotension)
[] Amiodarone 200 mg BID until ___, then switch to once 
daily 

- NSTEMI II:
[] Recent nuclear pharm stress negative. *Needs LHC as noted 
above. 
[] Discharged on aspirin 81 mg 

- AoCKD:
[] Discharge creatinine 2.2
[] *Please repeat a BMP at follow up. ___ need to adjust 
Torsemide dosing/frequency pending serum creatinine

- Iron deficiency (ferritin 38):
[] Received 1 dose of IV ferric gluconate 250 mg on ___
[] Consider oral iron supplementation at every other day dosing 
if tolerates

- Hypertension:
[] Due to soft BPs iso metoprolol and torsemide, we held home 
chlorthalidone 25, lisinopril 30, amlodipine 2.5, labetalol 100 
BID
[] If pressures are able to tolerate, recommend starting low 
dose ACE inhibitor 

- GERD:
[] Consider discontinuing home omeprazole 20 mg unless medically 
indicated

- Osteoarthritis/PMR/Pain:
[] Dose reduced Gabapentin from 400 mg BID to ___ mg BID, would 
continue at this dose
[] Consider weaning off Tramadol to reduce polypharmacy (she did 
not require any while in house)

- Insomnia:
[] Consider weaning off Zolpidem to reduce polypharmacy and high 
risk medications

ACTIVE ISSUES:
# Acute heart failure exacerbation (HFpEF, EF 57%):
# Hypoxia:
# NSTEMI II:
Pt with new HFpEF, diagnosed on recent admission, presented with 
shortness of breath and a 4L O2 requirement. proBNP was 15,000. 
Symptoms improved with BIPAP and 40 mg IV lasix. During this 
episode, she also had a mild troponin elevation with peak of 
0.23, and no ECG changes, likely demand in nature. 
- PRELOAD: Torsemide 5 mg PO daily
- AFTERLOAD: held iso soft BPs

# Atrial fibrillation with rapid ventricular response:
CHADS2-VASc of 5, diagnosed on previous admission (___), 
s/p successful DCCV on ___. She was initiated on amiodarone 
and apixaban 2.5mg BID. Beta blocker was held at discharge due 
to sinus bradycardia. During this admission, pt developed afib 
with rates in the 120s. She was initiated on metoprolol 
succinate 12.5 mg BID in addition to amiodarone. She was in 
sinus rhythm at discharge. 

# Severe aortic stenosis:
From discharge paperwork (___): TTE from ___ w/ normal EF 
and mild AS. Repeat TTE (___) with ___ 0.5cm2, mean gradient 
22, peak velocity 3.1m/s. Overall consistent with low gradient 
aortic stenosis presumed due to hypertrophied LV with small 
cavity. Evaluated by structural heart team who recommended 
management of afib and evaluation for CAD. pMIBI negative. RHC 
consistent with ECHO, showing severe aortic stenosis with mean 
transvalvular gradient 24 mm Hg, and calculated ___ 0.78 cm2. 

CHRONIC ISSUES:
# Acute on chronic kidney disease:
Admission Cr 1.9, discharge creatinine 2.2, up from most recent 
discharge creatinine 1.7. Likely component of cardiorenal 
disease. 

# Iron deficiency:
Mild normocytic anemia with Hb ___. Ferritin 38, suggestive of 
borderline iron deficiency. Received 1 dose of 250 mg IV ferric 
gluconate on ___ prior to discharge. 

# Hypertension:
Continued to hold home Chlorthalidone 25 mg, Labetalol 100 mg 
bid, Lisinopril 30 mg and amlodipine 2.5 mg throughout admission 
in light of soft SBPs and renal function. 

# Hyperlipidemia: 
Cholesterol 177, ___ 101, HDL 48, Chol/HD 3.7, LDLcalc 109. 
Started Atorvastatin 80 mg QHS during prior admission. 

# Osteoarthritis: 
Continued home tramadol ___ q6hr:PRN though did not require 
while inpatient. 

# Polymyalgia rheumatic:
Gabapentin at 200 mg BID, reduced from 400 mg BID in light of 
worsening renal function. 

# Insomnia:
Continued home Zolpidem ___ mg QHS:PRN; generally only required 
5 mg.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 400 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. TraMADol ___ mg PO Q6H:PRN Pain - Moderate 
4. Apixaban 2.5 mg PO BID 
5. Tobramycin-Dexamethasone Ophth Susp 1 DROP BOTH EYES QID 
6. Zolpidem Tartrate ___ mg PO QHS:PRN insomnia 
7. Amiodarone 200 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*1 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime. Disp 
#*30 Tablet Refills:*1 
3.  Metoprolol Succinate XL 12.5 mg PO BID 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day. Disp #*30 Tablet Refills:*1 
4.  Torsemide 5 mg PO DAILY 
RX *torsemide 5 mg 1 tablet(s) by mouth once a day. Disp #*30 
Tablet Refills:*1 
5.  Gabapentin 200 mg PO BID 
RX *gabapentin 100 mg 2 capsule(s) by mouth twice a day. Disp 
#*120 Capsule Refills:*0 
6.  Amiodarone 200 mg PO BID  
7.  Apixaban 2.5 mg PO BID  
8.  Omeprazole 20 mg PO DAILY  
9.  TraMADol ___ mg PO Q6H:PRN Pain - Moderate  
10.  Zolpidem Tartrate ___ mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Acute heart failure exacerbation
Hypoxia

SECONDARY:
Atrial fibrillation with rapid ventricular response
NSTEMI, type II
Severe aortic stenosis
Acute on chronic kidney injury
Iron deficiency anemia
Hypertension
Hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___,

You were admitted to ___ 
because you were short of breath. 

What happened in the hospital?
- You were given a medication called Torsemide to remove fluid 
from your lungs
- You were given a medication called Metoprolol to help slow 
your heart rhythm. 
- You felt better and were ready for discharge.

When you go home:
- We have made several changes to your medication list, so 
please take them as prescribed.
- Your AMIODARONE should be taken twice a day UNTIL ___. 
ON ___, TAKE IT ONLY ONCE A DAY. 
- Please go to your follow up appointments
- PLEASE SCHEDULE A DENTAL APPOINTMENT FOR DENTAL CLEARANCE to 
complete the work up for the dental clearance.
- You will need to schedule a cardiac catheterization with your 
cardiologist to complete the work up for the valve surgery
- Please weigh yourself every morning. If your weight goes up 3 
pounds, please call your doctor as you may need to take an extra 
dose of your water pill called Torsemide.
- If you develop shortness of breath, leg swelling, chest pain, 
palpitations, or light headedness, please call your doctor or 
return to the nearest emergency room.

It was a pleasure taking part in your care. We wish you all the 
best!

Sincerely,
The cardiology service at ___
 
Followup Instructions:
___